US05856518
(S)-7-[(S)-1-Phenylethyl]amino-5-azaspiro[2.4]heptane
A flask was charged with 200 mg of (S)-7-[(S)-1-phenylethyl]amino-4-oxo-5-azaspiro[2.4]heptane, and the atmosphere in the flask was replaced with nitrogen. Next, 5 ml of tetrahydrofuran was added to dissolve the compound in the flask, 5.0 ml of lithium aluminum hydride (1M solution in tetrahydrofuran) was added dropwise to the resulting solution at 0° C. and then the mixture was heated under reflux for 1 hour. After confirming completion of the reaction, the reaction was terminated by adding saturated ammonium chloride solution and then the insoluble matter was removed by filtration. The resulting filtrate was concentrated under a reduced pressure and distributed between ethyl acetate and saturated brine, and the resulting organic layer was dried over anhydrous sodium sulfate. Thereafter, the insoluble matter was removed by filtration and the resulting filtrate was concentrated under a reduced pressure to obtain 181 mg (96%) of colorless oily substance.

reactant | (S)-7-[(S)-1-phenylethyl]amino-4-oxo-5-azaspiro[2.4]heptane | 200 mg | C1(=CC=CC=C1)[C@H](C)N[C@@H]1CNC(C12CC2)=O | C14H18N2O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | lithium aluminum hydride | 1M, 5.0 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | (S)-7-[(S)-1-Phenylethyl]amino-5-azaspiro[2.4]heptane | C1(=CC=CC=C1)[C@H](C)N[C@@H]1CNCC12CC2 | C14H20N2
